US07622583B2
To a solution of N-[2-(2-amino-benzoyl)-5-chloro-pyridin-3-yl]-4-chloro-3-trifluoromethyl-benzenesulfonamide (24 mg, 0.048 mmol) in anhydrous pyridine (1 mL) was added methane sulfonyl chloride (9 mg, 0.075 mmol). The resulting mixture was stirred at room temperature for 2 h was poured into 1 M HCl and extracted with EtOAc. The extracts were concentrated under reduced pressure and the residues was purified by flash column chromatography to trissulfonamide Mass spectrum m/z: 515.0 (M+H). To this trisulfonamide (14 mg, 0.021 mmol) in THF was added TBAF (1 M in THF, 40 μL, 0.04 mmol) and the resulting mixture was stirred overnight. The reaction mixture was quenched with 1 M HCl and extracted with EtOAc. The combined extracts were dried (Na2SO4), filtered and concentrated under reduced pressure. The residue was purified by flash column chromatography on silica gel (combi-flash) to provide 4-Chloro-N-[5-chloro-2-(2-methanesulfonylamino-benzoyl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide. 1H NMR (400 MHz, CDCl3) δ 9.60 (br, 2 H), 8.38 (d, J=2.0 Hz, 1 H), 8.16 (d, J=2.0 Hz, 1 H), 8.04 (d, J=2.0 Hz, 1 H), 7.87 (dd, J=8.4, 2.4 Hz, 1 H), 7.72-7.70 (m, 1 H), 7.62-7.57 (m, 1 H), 7.53 (d, J=8.4 Hz, 1 H), 7.29 (dd, J=8.0, 2.4 Hz, 1 H), 7.08-7.05 (m, 1 H), 3.07 (s, 3 H); Mass spectrum m/z: 515.0 (M+H).

reactant | N-[2-(2-amino-benzoyl)-5-chloro-pyridin-3-yl]-4-chloro-3-trifluoromethyl-benzenesulfonamide | 0.048 mmol, 24 mg | NC1=C(C(=O)C2=NC=C(C=C2NS(=O)(=O)C2=CC(=C(C=C2)Cl)C(F)(F)F)Cl)C=CC=C1 | C19H12Cl2F3N3O3S
reactant | methane sulfonyl chloride | 0.075 mmol, 9 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | HCl | 1 M | Cl | ClH
reactant | TBAF | 0.04 mmol, 1 M, 40 μL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
solvent | THF | C1CCOC1 | C4H8O
product | 4-Chloro-N-[5-chloro-2-(2-methanesulfonylamino-benzoyl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)C(C1=C(C=CC=C1)NS(=O)(=O)C)=O)C(F)(F)F | C20H14Cl2F3N3O5S2
